US06313142B1
A two liter, four neck flask under nitrogen atmosphere was charged with benzotriazole (36.96 g, 310 mmol, 1.0 equiv) and dry toluene (400 mL). A room temperature solution of 4-(trifluoromethyl)aniline (39.1 mL, 310 mmol, 1.0 equiv) and 50 mL toluene was added over one minute. A room temperature solution of propionaldehyde (24.6 mL, 341 mmol, 1.1 equiv) and 50 mL toluene was then added over 20 minutes. There was an exotherm from 23° C. to 30° C. during this addition. After stirring 24 h, n-heptane (500 mL) was added, and the slurry stirred an additional 1 h. The suspension was filtered, the solids were washed with n-heptane (1×100 mL, then 1×200 mL, and dried. (1-Benzotriazol-1-yl-propyl)-(4-trifluoromethyl-phenyl)-amine was isolated as shiny white needles (81.3 g, 82%). After 24 h, a second crop was isolated from the filtrate (8.7 g, 9%). mp 130-132° C.; 1H NMR (DMSO-d6, 400 MHz) δ0.82 (t, 3H, J=7.5 Hz), 2.25 (m, 2H), 6.49 (m, 1H), 6.80 (d, 2H, J=8.7 Hz), 7.35 (m, 3H), 7.50 (m, 1H), 7.88 (d, 1H, J=8.3 Hz), 7.99 (m, 1H), 8.09 (d, 1H, J=8.5 Hz); 13C NMR (DMSO-d6, 100 MHz) δ149.32, 146.19, 131.46, 127.73, 126.8, 125.33 (q, J=270 Hz), 124.44, 119.88, 118.27 (q, J=31.7 Hz), 112.91, 111.56, 71.03, 28.08, 10.29; DEPT spectrum: quaternary carbons δ149.32, 146.19, 131.46, 125.33, 118.27; CH carbons δ127.73, 126.8, 124.44, 119.88, 112.91, 111.56, 71.03; CH2 carbon δ28.08; CH3 carbon δ10.29; IR (drifts) 3292 (s), 3038 (m), 2975 (m), 1621 (s), 1331 (s), 1320 (s), 1114 (vs); Anal. Calcd for C16H15N4F3: C, 59.99; H, 4.72; N, 17.49. Found (first crop): C, 60.16; H, 4.74; N, 17.86. Found (second crop): C, 59.97; H, 4.66; N, 17.63.

reactant | benzotriazole | 310 mmol, 36.96 g, 1.0 equiv | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-(trifluoromethyl)aniline | 310 mmol, 39.1 mL, 1.0 equiv | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | propionaldehyde | 341 mmol, 24.6 mL, 1.1 equiv | C(CC)=O | C3H6O
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | n-heptane | 500 mL | CCCCCCC | C7H16
product | (1-Benzotriazol-1-yl-propyl)-(4-trifluoromethyl-phenyl)-amine | N1(N=NC2=C1C=CC=C2)C(CC)NC2=CC=C(C=C2)C(F)(F)F | C16H15F3N4
